US07226487B2
2. To obtain 2-amino-5-hydroxymethyl-phenol (2)
To prepare pre-mix: Add to a suitable vessel in the following order, citric acid, ethoxy diglycol, oleic acid, propylene glycol, and cocaamidopropyl betaine, then agitate until fully dispersed, then add Oleth-10, Oleth-2 and acrylate co-polymers, continue the agitation for 10 minutes and transfer to main vessel. To the main vessel then add water (heated to 50° C.), oleic acid, water, sodium sulphite, and EDTA. Next weigh out and add the ascorbic acid, then stir well until dissolved. Separately weigh dyes into a clean beaker and transfer also to the main vessel. Add the dyes and stir until dissolved (heat to 40° C. as necessary). Cool to room temperature with stirring, add the ammonium hydroxide and water with stirring, add citric acid to pH 10, and transfer to the storage container.

reactant | citric acid | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
reactant | ethoxy diglycol | CCOCCOCCO | C6H14O3
reactant | oleic acid | C(CCCCCCC\C=C/CCCCCCCC)(=O)O | C18H34O2
reactant | propylene glycol | C(C(C)O)O | C3H8O2
reactant | betaine | C[N+](C)(C)CC(=O)O
reactant | Oleth-2 | CCCCCCCC/C=C\CCCCCCCCOCCOCCO | C22H44O3
reactant | acrylate | C(C=C)(=O)[O-]
reactant | sodium sulphite | S(=O)([O-])[O-].[Na+].[Na+]
reactant | EDTA | C(CN(CC(=O)O)CC(=O)O)N(CC(=O)O)CC(=O)O | C10H16N2O8
reactant | ascorbic acid | O=C1C(O)=C(O)[C@H](O1)[C@@H](O)CO | C6H8O6
reactant | ammonium hydroxide | [OH-].[NH4+]
solvent | water | O | H2O
product | 2-amino-5-hydroxymethyl-phenol | NC1=C(C=C(C=C1)CO)O | C7H9NO2
